US08138189B2
Step 3: 2-(2-Chloro-4-methoxy-phenyl)-1-(2-chloro-pyridin-4-yl)-propan-1-on
To a solution of 2-(2-chloro-4-methoxy-phenyl)-1-(2-chloro-pyridin-4-yl)-ethanone (17.1 g, 0.058 mol) in tetrahydrofuran (550 ml) was added sodium hydride (55%-65% dispersion in mineral oil, 2.43 g, 0.063 mol). The mixture was stirred at 45° C. for 3 h and then placed in an ice bath. A solution of methyl iodide (9.01 g, 0.0635 mol) in tetrahydrofuran (50 ml) was added dropwise. The ice bath was removed and the mixture was stirred at 35° C. for 3 h. The mixture was poured in ice water and extracted twice with AcOEt. The organic phases were washed with brine, dried over MgSO4 and concentrated. The residue was purified by column chromatography (silica gel, heptane/AcOEt 4:1) to give the title compound (14.7 g) as yellow viscous oil. MS (m/e, ISP neg. ion)=310.3 [M−H−].

reactant | 2-(2-chloro-4-methoxy-phenyl)-1-(2-chloro-pyridin-4-yl)-ethanone | 0.058 mol, 17.1 g | ClC1=C(C=CC(=C1)OC)CC(=O)C1=CC(=NC=C1)Cl | C14H11Cl2NO2
reactant | sodium hydride | 0.063 mol, 2.43 g | [H-].[Na+]
reactant | methyl iodide | 0.0635 mol, 9.01 g | CI | CH3I
solvent | tetrahydrofuran | 550 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(2-Chloro-4-methoxy-phenyl)-1-(2-chloro-pyridin-4-yl)-propan-1-on | 14.7 g | ClC1=C(C=CC(=C1)OC)C(C(=O)C1=CC(=NC=C1)Cl)C | C15H13Cl2NO2
